US07402595B2
3-acetyl-6-bromo-2-(4-methylsulfanylmethylbenzyl)-4-phenyl-2H-isoquinolin-1-one
By a method similar to that in Example 395, 3-acetyl-6-bromo-2-(4-hydroxymethylbenzyl)-4-phenyl-2H-isoquinolin-1-one was converted to mesylate and reacted with sodium thiomethoxide to give the title compound (239 mg, 64%).

reactant | 3-acetyl-6-bromo-2-(4-hydroxymethylbenzyl)-4-phenyl-2H-isoquinolin-1-one | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CO | C25H20BrNO3
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | sodium thiomethoxide | C[S-].[Na+]
product | 3-acetyl-6-bromo-2-(4-methylsulfanylmethylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 239 mg, 64% | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CSC | C26H22BrNO2S
